US09301951B2
Intermediate 76b: 6-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)-ethyl)pyrimidin-4-amine
Into a 100 mL round bottom flask, was placed a solution of 4-chloro-6-(2-nitro-5-(piperidin-1-yl)phenyl)pyrimidine (100 mg, 0.31 mmol, 1.00 equiv) in toluene (10 mL), 1-(3-(trifluoromethyl)phenyl)ethanamine (71 mg, 0.38 mmol, 1.20 equiv), BINAP (9 mg, 0.01 mmol, 0.05 equiv), Cs2CO3 (144 mg, 0.44 mmol, 1.40 equiv), and Pd(dba)3CHCl3 (6.5 mg, 0.01 mmol, 0.02 equiv). The resulting solution was stirred for 3 h at 120° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:5). The product was obtained as 80 mg (54%) of a yellow oil.

reactant | 4-chloro-6-(2-nitro-5-(piperidin-1-yl)phenyl)pyrimidine | 0.31 mmol, 100 mg, 1.00 equiv | ClC1=NC=NC(=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C15H15ClN4O2
reactant | 1-(3-(trifluoromethyl)phenyl)ethanamine | 0.38 mmol, 71 mg, 1.20 equiv | FC(C=1C=C(C=CC1)C(C)N)(F)F | C9H10F3N
reactant | Cs2CO3 | 0.44 mmol, 144 mg, 1.40 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | BINAP | 0.01 mmol, 9 mg, 0.05 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 6-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)-ethyl)pyrimidin-4-amine | 80 mg, 54% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NC(C)C1=CC(=CC=C1)C(F)(F)F | C24H24F3N5O2
